US06242443B1
7-Chloro-3-(1,3-dimethylpentyl)amino-4H-1,2,4-benzothiadiazine 1,1-dioxide
Starting from 3,7-dichloro-4H-1,2,4-benzothiadiazine 1,1-dioxide (500 mg; 1.99 mmol) and 1,3-dimethylpentylamine (1 g; 8.68 mmol) and with the use of same procedure as in example 21 230 mg (35.1%) of the title compound was prepared; m.p. >220° C.; 1H-NMR (DMSO-d6) ppm; 10.41 (s, 1H, NH), 7.68 (d, 1H, H-8), 7.60 (dd, 1H, H-5), 7.2 (d, 1H, H-7), 7.0 (br, 1H, NH), 3.95 (m, 1H, CH), 1.5 (m, 8H), 0.9 (m, 6H, 2×CH3); MS:EI/70eV: 329 (M+), 301, 258, 231, 190, 126, 69, 44. Analysis: C14H20ClN3O2S requires C, 50.98; H, 6.11; N, 12.74; (found C, 51.23; H, 6.42; N, 12.53).

reactant | 3,7-dichloro-4H-1,2,4-benzothiadiazine 1,1-dioxide | 1.99 mmol, 500 mg | ClC1=NS(C2=C(N1)C=CC(=C2)Cl)(=O)=O | C7H4Cl2N2O2S
reactant | 1,3-dimethylpentylamine | 8.68 mmol, 1 g | CC(CC(CC)C)N | C7H17N
product | 7-Chloro-3-(1,3-dimethylpentyl)amino-4H-1,2,4-benzothiadiazine 1,1-dioxide | ClC1=CC2=C(NC(=NS2(=O)=O)NC(CC(CC)C)C)C=C1 | C14H20ClN3O2S
